US07618978B2
2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(3-methyl -butyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve (2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester (167 mg, 0.33 mmol) in 1,2-dichloroethane (2.5 mL) and add 3-methylbutyraldehyde (0.042 mL, 0.41 mmol). After 5 min, add sodium triacetoxyborohydride (100 mg, 0.47 mmol) and stir for 1 h. Add saturated aqueous sodium bicarbonate solution (5 mL) and stir for 10 min. Add ethyl acetate and separate the layers. Extract the aqueous layer with ethyl acetate, combine the organic layers, wash the organic layer with saturated aqueous sodium chloridesolution, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with ethyl acetate) to give the title compound as a colorless oil (165 mg, 87%).

reactant | 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 167 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C31H37N3O3
reactant | 3-methylbutyraldehyde | 0.41 mmol, 0.042 mL | CC(CC=O)C | C5H10O
reactant | sodium triacetoxyborohydride | 0.47 mmol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 2.5 mL | ClCCCl | C2H4Cl2
product | 2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(3-methyl -butyl)-piperazine-1-carboxylic acid tert-butyl ester | 165 mg, 87% | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CCC(C)C)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H47N3O3
